US07419984B2
6-[5-Bromo-2-(4-methoxy-benzyloxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 165, 2-[2-amino-6-(4-chloro-phenylamino) pyrimidin-4-yl]-4-bromo-phenol and 4-methoxy-benzyl chloride provided the title compound (50% yield). 1H NMR (CD3OD) δ 3.76 (s, 3H, CH3), 5.16 (s, 2H, CH2), 6.37 (s, 1H, Ar), 6.89-6.92 (m, 2H, Ar), 7.28-7.30 (m, 3H, Ar), 7.39-7.42 (m, 2H, Ar), 7.69-7.32 (m, 4H, Ar).

reactant | 2-[2-amino-6-(4-chloro-phenylamino) pyrimidin-4-yl]-4-bromo-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Br)O)NC1=CC=C(C=C1)Cl | C16H12BrClN4O
reactant | 4-methoxy-benzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 6-[5-Bromo-2-(4-methoxy-benzyloxy)-phenyl]-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 50% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)OCC1=CC=C(C=C1)OC | C24H20BrClN4O2
